US09358222B2
3-(4-chlorophenyl)-3-hydroxy-2-(4-methylbenzyl)isoindolin-1-one (tjb 14/02)
The named compound was synthesised from 2-(4-chlorobenzoyl)-benzoic acid (2.0 g, 7.6 mmol) and 4-methyl benzylamine (1.07 mL, 8.4 mmol) using General Procedure B, purified by chromatography (Biotage SP4; 10-80% EtOAc/hexane) and obtained as a white solid (2.045 g, 72%).

reactant | 2-(4-chlorobenzoyl)-benzoic acid | 7.6 mmol, 2.0 g | ClC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C14H9ClO3
reactant | 4-methyl benzylamine | 8.4 mmol, 1.07 mL | CC1=CC=C(CN)C=C1 | C8H11N
product | 3-(4-chlorophenyl)-3-hydroxy-2-(4-methylbenzyl)isoindolin-1-one | 2.045 g, 72% | ClC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)C)O | C22H18ClNO2
